US07576115B2
Synthesis of 4-({[2-(1-{4-hydroxy-1-methyl-5-[3-(trifluoromethyl)phenyl]-1H-pyrazol-3-yl}ethylidene)hydrazino]carbonothioyl}amino)benzoic acid
1-[4-Hydroxy-1-methyl-5-(3-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethanone (0.229 mmol, 65.0 mg) and 4-hydrazinocarbonothioylaminobenzoic acid (0.229 mmol, 48.3 mg) were stirred with dimethylformamide (2.5 mL) and three drops of concentrated hydrochloric acid at room temperature for 24 hours. After addition of water, the precipitated yellow solid was recovered by filtration, washed with water and dried by means of a vacuum pump. Chloroform/n-hexane was added to the resulting solid, and is the precipitated solid was recovered by filtration and dried by means of a vacuum pump to give the desired product as a yellow solid (74.7 mg, yield 68%).

reactant | 1-[4-Hydroxy-1-methyl-5-(3-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethanone | 0.229 mmol, 65.0 mg | OC=1C(=NN(C1C1=CC(=CC=C1)C(F)(F)F)C)C(C)=O | C13H11F3N2O2
reactant | 4-hydrazinocarbonothioylaminobenzoic acid | 0.229 mmol, 48.3 mg | N(N)C(=S)NC1=CC=C(C(=O)O)C=C1 | C8H9N3O2S
reactant | dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
catalyst | hydrochloric acid | three drops | Cl | ClH
solvent | water | O | H2O
product | 4-({[2-(1-{4-hydroxy-1-methyl-5-[3-(trifluoromethyl)phenyl]-1H-pyrazol-3-yl}ethylidene)hydrazino]carbonothioyl}amino)benzoic acid | 74.7 mg, yield 68% | OC=1C(=NN(C1C1=CC(=CC=C1)C(F)(F)F)C)C(C)=NNC(=S)NC1=CC=C(C(=O)O)C=C1 | C21H18F3N5O3S
